US09212182B2
A solution of perfluorophenyl 1-(3-methoxynaphthalen-2-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (0.250 g, 0.457 mmol), 3-aminoisoxazole (0.037 ml, 0.502 mmol) and THF (4.57 ml) was cooled in an ice-bath for 15 min, then lithium bis(trimethylsilyl)amide (1M in THF) (0.959 ml, 0.959 mmol) was added dropwise. After 60 min, the mixture was diluted with 1N aq. HCl and EtOAc. The aq. layer was extracted with EtOAc (2×). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The residue was concentrated and then triturated with in Et2O. The resulting suspension was sonicated, then filtered. The collected solid was washed with Et2O (2×), dried under a stream of N2 (g), then dried under vacuum to give N-(isoxazol-3-yl)-1-(3-methoxynaphthalen-2-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.175 g, 0.391 mmol, 86% yield) as an off white solid. 1H NMR (400 MHz, DMSO-d6) δ 11.49-11.79 (m, 1H), 8.68-8.78 (m, 1H), 8.38-8.42 (m, 1H), 8.24-8.29 (m, 1H), 7.96-8.01 (m, 2H), 7.86-7.91 (m, 1H), 7.78-7.84 (m, 1H), 7.66 (s, 1H), 7.56-7.64 (m, 1H), 7.42-7.50 (m, 1H), 6.75-6.86 (m, 2H), 6.42-6.47 (m, 1H), 3.72-3.81 (m, 3H). m/z (ESI) 447.9 (M+H)+.

reactant | perfluorophenyl 1-(3-methoxynaphthalen-2-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 0.457 mmol, 0.250 g | COC=1C(=CC2=CC=CC=C2C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C26H14F5NO5S
reactant | 3-aminoisoxazole | 0.502 mmol, 0.037 ml | NC1=NOC=C1 | C3H4N2O
reactant | THF | 4.57 ml | C1CCOC1 | C4H8O
reactant | lithium bis(trimethylsilyl)amide | 0.959 mmol, 1M, 0.959 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | HCl | 1N | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(isoxazol-3-yl)-1-(3-methoxynaphthalen-2-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.391 mmol, 0.175 g, 86% yield | O1N=C(C=C1)NS(=O)(=O)C=1C=C2C=CC(N(C2=CC1)C1=CC2=CC=CC=C2C=C1OC)=O | C23H17N3O5S
